US06265350B1
2-(2,6-Difluorophenyl)-4-(4-bromophenyl)thiazoline (0.90 g, 2.5 mmol, obtained from precursor VP3 and Lawesson's Reagent in toluene) was mixed with 2-trifluoroethoxy-5-trimethylstannylpyridine (1.21 g, 3.6 mmol), Pd(PPh3)4 (0.15 g) and lithium chloride (0.16 g) in dioxane (10 ml) and the mixture was refluxed for 8 hours. After extraction and chromatography, 2-(2,6-difluorophenyl)-4-[4-(2-trifluoroethoxypyridin-5-yl)phenyl]thiazoline was obtained, 0.46 g, beige solid; MS: M+450.

reactant | 2-(2,6-Difluorophenyl)-4-(4-bromophenyl)thiazoline | 2.5 mmol, 0.90 g | FC1=C(C(=CC=C1)F)C=1SCC(N1)C1=CC=C(C=C1)Br | C15H10BrF2NS
reactant | 2-trifluoroethoxy-5-trimethylstannylpyridine | 3.6 mmol, 1.21 g | FC(COC1=NC=C(C=C1)[Sn](C)(C)C)(F)F
reactant | lithium chloride | 0.16 g | [Cl-].[Li+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2,6-difluorophenyl)-4-[4-(2-trifluoroethoxypyridin-5-yl)phenyl]thiazoline | FC1=C(C(=CC=C1)F)C=1SCC(N1)C1=CC=C(C=C1)C=1C=CC(=NC1)OCC(F)(F)F | C22H15F5N2OS
